US06133258
The reaction procedure of Example 11 was followed except that 1.31 g of ethyl 4-[(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]benzoate, 36 mg of lithium hydride and 0.48 ml of benzyl bromide were used. As a result, 1.28 g of ethyl 4-[(3-benzyl-4-oxo-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-2-ylidene)amino]benzoate was obtained as a low polarity substance, and 20 mg of ethyl 4-[N-benzyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]benzoate was obtained as a high polarity substance.

reactant | ethyl 4-[(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]benzoate | 1.31 g | O=C1N=C(SC2=C1C=CC=N2)NC2=CC=C(C(=O)OCC)C=C2 | C16H13N3O3S
reactant | lithium hydride | 36 mg | [H-].[Li+]
reactant | benzyl bromide | 0.48 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | ethyl 4-[(3-benzyl-4-oxo-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-2-ylidene)amino]benzoate | 1.28 g | C(C1=CC=CC=C1)N1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=C(C(=O)OCC)C=C2 | C23H19N3O3S
